US06023002
Using essentially the procedure as in Example 1, a mixture of perfluorobutyric acid fluorides (3.77 g with acyl fluoride content of 81%, 14 mmol), KF (1.02 g ,17 mmol), the ethoxyisobutene (4.56 g with purity 88%, 0.18 mmol) in 8.33 g diglyme was agitated at room temperature for four days. The reactor was vented to yield 0.67 g liquid which comprised (GC %): 88% starting acyl fluorides mixture and 8% C4F9OC2H5. The reaction solution remaining in the reactor was vacuum distilled to yield 3.0 g of a mixture which comprised (GC %): 75% C4F9OC2H5, 1.5% C2H5C(CF3)2C(O)F and 7.6% starting vinyl ether. After decarboxylation by treatment with triethylamine, the remaining diglyme solution yielded 1.45 g CF3CH2CF3 (purity 98% contaminated with 1.5% C4F9OC2H5 and 0.5% (CF3)CC2H5C(O)F). Triethylamine recovery gave 2.5 g organic liquid material with b.p. up to 101° C., consisting of (GC %): 2.5% CF3CH2CF3, 42% triethylamine, 9% starting vinyl ether and 29% diglyme. Calculated yields were: C4F9OC2H5, 72% on the consumed acid fluoride mixture, CF3CH2CF3, 75% on consumed vinyl ether.

reactant | C4F9OC2H5 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)OCC | C6H5F9O
reactant | C2H5C(CF3)2C(O)F | C(C)C(C(F)(F)F)(C(F)(F)F)C(=O)F | C6H5F7O
reactant | vinyl ether | C(=C)OC=C | C4H6O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | diglyme | COCCOCCOC | C6H14O3
product | CF3CH2CF3 | 1.45 g | C(F)(F)(F)CC(F)(F)F | C3H2F6
